US08053438B2
A mixture of (1H-benzo[d]imidazol-2-yl)(4-(3-morpholinopyrazin-2-yloxy)-phenyl)methanone (115 mg, 286 μmol), potassium carbonate (79.2 mg, 573 μmol) and 2-iodopropane (97.4 mg, 573 μmol) in DMF (2 mL) was stirred overnight. Additional isopropyl iodide was added until the starting material was consumed. The mixture was diluted with water and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate and the combined organics were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by Biotage™, 10-30% acetone/hexanes gradient, to give (1-isopropyl-1H-benzo[d]imidazol-2-yl) (4-(3-morpholinopyrazin-2-yloxy)phenyl)methanone. MS (ESI, pos. ion) m/z: 444.1 (M+1). IC50 (uM) ++++.

reactant | (1H-benzo[d]imidazol-2-yl)(4-(3-morpholinopyrazin-2-yloxy)-phenyl)methanone | 286 μmol, 115 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2N2CCOCC2 | C22H19N5O3
reactant | potassium carbonate | 573 μmol, 79.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 573 μmol, 97.4 mg | IC(C)C | C3H7I
reactant | isopropyl iodide | C(C)(C)I | C3H7I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (1-isopropyl-1H-benzo[d]imidazol-2-yl) (4-(3-morpholinopyrazin-2-yloxy)phenyl)methanone | C(C)(C)N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2N2CCOCC2 | C25H25N5O3
